US07723493B2
Synthesis of 4-(1-dimethylamino-2-propylimino)-2-pentanone
To a solution of 10 g (199.76 mmol) acetylacetone in THF at room temperature loaded with 20 g of Na2SO4 was added 24.49 g (239.71 mmol) 1-dimethylamino-2-propylamine. The slurry was stirred for 16 hours at room temperature and reaction deemed to be complete by GC/MS. All volatiles were evaporated off under vacuum and unreacted acetylacetone and diamine were removed by heating at 60° C. under 100 mTorr vacuum for 2 hours. Yellow residual oil was purified via vacuum transfer heating at 130° C. under 100 mTorr vacuum. 13.5 g of light yellow oil was obtained as pure product with a yield of 74%.

reactant | acetylacetone | 199.76 mmol, 10 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | Na2SO4 | 20 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 1-dimethylamino-2-propylamine | 239.71 mmol, 24.49 g | CN(CC(C)N)C | C5H14N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-dimethylamino-2-propylimino)-2-pentanone | 13.5 g, yield of 74% | CN(CC(C)N=C(CC(C)=O)C)C | C10H20N2O
